US06172181B2
Into a 250 ml three-neck flask, which was equipped with an additional funnel and calcium chloride drying tube, were placed 4-ethoxydiphenyl ether (3.5 g), which was synthesized from p-phenoxyphenol with ethyl iodide in the presence of sodium hydroxide, aluminum chloride (5.4 g) and dried dichloroethane (30 ml). The solution of 2,3,4,5,6-pentafluorobenzoyl chloride (3.7 g), which was synthesized from 2,3,4,5,6-pentafluorobenzoic acid with thionyl chloride, and dried dichloroethane (10 ml) was slowly dripped into flask while stirring. After the addition was complete, the reaction mixture was stirred overnight at room temperature. Small amount of water was added very slowly to the reaction mixture and continued stirring for 15 min. The reaction mixture was then poured into 250 ml of water, which was extracted with dichloromethane. The organic layer was collected, washed with water, dried over sodium sulfate, filtered and evaporated. Recrystallization from methanol with charcoal yielded white crystal of 4-ethyoxy-4′-(2,3,4,5,6-pentafluorobenzoyl) diphenyl ehter (EPDE) (yield 60.4%).

reactant | p-phenoxyphenol | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | ethyl iodide | C(C)I | C2H5I
reactant | sodium hydroxide | [OH-].[Na+]
reactant | aluminum chloride | 5.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
reactant | 2,3,4,5,6-pentafluorobenzoic acid | FC1=C(C(=O)O)C(=C(C(=C1F)F)F)F | C7HF5O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 250 ml | O | H2O
product | 2,3,4,5,6-pentafluorobenzoyl chloride | 3.7 g, yield 60.4% | FC1=C(C(=O)Cl)C(=C(C(=C1F)F)F)F | C7ClF5O
